* Canonical DUT generated from benchmark/analogcoder_pro/p22_oscillator.cir
* Embedded analyses and output directives were externalized into metadata.
* AnalogCoder-Pro p22: An RC phase-shift oscillator
* Source: analogcoder\AnalogCoderPro-master\sample_design\p22\p22.py
* AnalogCoder-Pro type: Oscillator
* Inputs: -
* Outputs: Vout
* Opamp subcircuit imported from AnalogCoder-Pro opamp.py
.SUBCKT Opamp Vinp Vinn Vout
.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
.MODEL pmos_model PMOS (LEVEL=1 KP=5e-05 VTO=-0.5)
Vdd Vdd 0 0.1
Vbias Vbias 0 1.5
M1 Voutp Vinp Source3 Source3 nmos_model W=5e-05 L=1e-06
M2 Vout Vinn Source3 Source3 nmos_model W=5e-05 L=1e-06
M3 Source3 Vbias 0 0 nmos_model W=0.0001 L=1e-06
M4 Voutp Voutp Vdd Vdd pmos_model W=0.0001 L=1e-06
M5 Vout Voutp Vdd Vdd pmos_model W=0.0001 L=1e-06
.ENDS Opamp
Vdd Vdd 0 5
Vref Vref 0 2.5
R1 Vout N1 10k
C1 N1 Vref 10n
R2 N1 N2 10k
C2 N2 Vref 10n
R3 N2 N3 10k
C3 N3 Vref 10n
Rf Vout Vinn 330k
Rin N3 Vinn 1
X1 Vref Vinn Vout Opamp
* original analysis: .TRAN 10U 20M
.END
